* NGSPICE file created from and_gate.ext - technology: scmos

* Black-box entry subcircuit for FILL abstract view
.subckt FILL gnd vdd
.ends

* Black-box entry subcircuit for BUFX2 abstract view
.subckt BUFX2 A Y gnd vdd
.ends

* Black-box entry subcircuit for AND2X2 abstract view
.subckt AND2X2 A B Y gnd vdd
.ends

.subckt and_gate y
XFILL_0_0_0 y y FILL
XFILL_0_0_1 y y FILL
XFILL_0_0_2 y y FILL
XFILL_0_0_3 y y FILL
XBUFX2_1 y y y y BUFX2
XAND2X2_1 y y y y y AND2X2
.ends

